US07964645B2
Preparation of 2-Amino-N-[phenyl-(4-trifluoromethyl-phenyl)-methyl]-acetamide hydrochloride
Prepared in analogy to example 3.1, starting from N-tert.butyloxycarbonyl glycine and C-phenyl-C-(4-trifluoromethyl-phenyl)-methylamine hydrochloride (CA [49703-60-8]).

reactant | N-tert.butyloxycarbonyl glycine | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | C-phenyl-C-(4-trifluoromethyl-phenyl)-methylamine hydrochloride | Cl.C1(=CC=CC=C1)C(C1=CC=C(C=C1)C(F)(F)F)N
product | 2-Amino-N-[phenyl-(4-trifluoromethyl-phenyl)-methyl]-acetamide hydrochloride | Cl.NCC(=O)NC(C1=CC=C(C=C1)C(F)(F)F)C1=CC=CC=C1 | InChI=1S/C16H15F3N2O.ClH/c17-16(18,19)13-8-6-12(7-9-13)15(21-14(22)10-20)11-4-2-1-3-5-11;/h1-9,15H,10,20H2,(H,21,22);1H
